US04810699
3-Chloro-2-(2,2,2-trifluoroethoxy)nitrobenzene (47 g, 185 mmol) and tin chloride dihydrate (126.5 g, 555 mmol) were placed in a 3 neck flask equipped with an overhead stirrer. Concentrated HCl (231 mL) was added in one portion with rapid stirring, and the reaction heated rapidly until it was homogeneous. After stirring an additional 15 minutes, the mixture was cooled to 0° C. and 50% NaOH added to pH=13. The alkaline solution was extracted with Et2O (2×500 mL) and the combined Et2O layers were washed with brine (2×500 mL), dried (MgSO4), and concentrated to afford 35 g of 3-chloro-2-(2,2,2-trifluoroethoxy)aniline as a light yellow oil. This oil was dissolve in the minimum amount of ether (~100 mL), then saturated with HCl gas. The product was precipitated by the addition of hexane (250 mL), and the resulting solid removed by filtration to afford 31 g (65%) of 3-chloro-2-(2,2,2-trifluoroethoxy)aniline as the hydrochloride salt, m.p. 170°-180° C. (dec.).

reactant | 3-Chloro-2-(2,2,2-trifluoroethoxy)nitrobenzene | 185 mmol, 47 g | ClC=1C(=C(C=CC1)[N+](=O)[O-])OCC(F)(F)F | C8H5ClF3NO3
reactant | tin chloride dihydrate | 555 mmol, 126.5 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | HCl | 231 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
product | 3-chloro-2-(2,2,2-trifluoroethoxy)aniline | 35 g | ClC=1C(=C(N)C=CC1)OCC(F)(F)F | C8H7ClF3NO
